US08685970B2
2-oxo-2-(3-(trifluoromethoxy)phenyl)acetaldehyde (1.0 g, 4.58 mmol) and 2,3-diaminobenzoic acid (634 mg, 4.17 mmol) were dissolved in EtOH (70 mL), and stirred at room temperature overnight. The volume was reduced to 30 mL, the precipitate was collected by filtration, washed with ethanol, and dried under vacuum to give 3-(3-(trifluoromethoxy)phenyl)quinoxaline-5-carboxylic acid as a gray solid (1.0 g, yield: 72% yield).

reactant | 2-oxo-2-(3-(trifluoromethoxy)phenyl)acetaldehyde | 4.58 mmol, 1.0 g | O=C(C=O)C1=CC(=CC=C1)OC(F)(F)F | C9H5F3O3
reactant | 2,3-diaminobenzoic acid | 4.17 mmol, 634 mg | NC1=C(C(=O)O)C=CC=C1N | C7H8N2O2
solvent | EtOH | 70 mL | CCO | C2H6O
product | 3-(3-(trifluoromethoxy)phenyl)quinoxaline-5-carboxylic acid | 1.0 g, yield: 72% yield | FC(OC=1C=C(C=CC1)C=1C=NC=2C=CC=C(C2N1)C(=O)O)(F)F | C16H9F3N2O3
